US07396836B2
4,6-Di(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine
After dissolving sodium (540 mg, 23.5 mmol) in anhydrous ethanol (200 ml), 1-(2-furyl)-2-(4-pyridyl)-1-ethanone (2.00 g, 10.7 mmol) and 2-furaldehyde (0.97 ml, 11.7 mmol) were successively added thereto and the mixture was stirred at room temperature. After 1.5 hours, guanidine hydrochloride (7.0 g, 73.3 mmol) was added thereto, followed by heating under reflux for 14 hours. After cooling as it was, the reaction mixture was concentrated and the residue was suspended in tetrahydrofuran. Then, the insoluble matters were filtered off and washed with tetrahydrofuran, and the solvent of the filtrate was evaporated. To the residue were added tetrahydrofuran (80 ml) and active manganese dioxide (30.0 g), followed by heating under reflux for 2 hours. After cooling as it was, the manganese dioxide was filtered off through Celite and washed with tetrahydrofuran. The combined filtrates were concentrated, and then methanol was added to the residue. The resulting precipitates were collected by filtration and washed with methanol, to give the title compound (1.32 g, 41%) as a pale brown solid.

reactant | sodium | 23.5 mmol, 540 mg | [Na] | Na
reactant | 1-(2-furyl)-2-(4-pyridyl)-1-ethanone | 10.7 mmol, 2.00 g | O1C(=CC=C1)C(CC1=CC=NC=C1)=O | C11H9NO2
reactant | 2-furaldehyde | 11.7 mmol, 0.97 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | guanidine hydrochloride | 73.3 mmol, 7.0 g | Cl.NC(=N)N
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 4,6-Di(2-furyl)-5-(4-pyridyl)-2-pyrimidinylamine | 1.32 g, 41% | O1C(=CC=C1)C1=NC(=NC(=C1C1=CC=NC=C1)C=1OC=CC1)N | C17H12N4O2
